US07491714B2
6-({(S)-2-Hydroxy-3-[(R)-5-(6-methoxy-[1,5]naphthyridin-4-yl)-2-oxo -oxazolidin-3-yl]-propylamino}-methyl)-4H-pyrido[3,2-b][1,4]thiazin-3-one
To (R)-3-((S)-3-Amino-2-hydroxy-propyl)-5-(6-methoxy-[1,5]naphthyridin-4-yl)-oxazolidin-2-one (0.069 g, 0.22 mmol) in CH2Cl2 (7 mL) and MeOH (1.8 mL) was added 3-oxo-3,4-dihydro-2H-pyrido[3,2,b][1,4]thiazine-6-carbaldehyde (SB-735214, 0.043 g, 0.22 mmol) and the reaction mixture was stirred for 15 hours. Sodium borohydride (0.01 g, 0.26 mmol) was added followed by methanol (5 mL). After 1 hour, the reaction mixture was diluted with chloroform and washed with saturated aqueous NaHCO3 solution, dried (MgSO4), filtered and concentrated. Flash chromatography on silica gel using a gradient of 0-10% MeOH/CHCl3 afforded the product as a white solid (0.082 g, 76%) 1H NMR (400 MHz, CDCl3): δ8.80 (d, J=4.6 Hz, 1H); 8.25 (d, J=9.1 Hz, 1H); 7.70 (d, J=4.4 Hz, 1H); 7.55 (d, J=7.6 Hz, 1H); 7.16 (d, J=9.1 Hz, 1H); 6.87 (d, J=7.9 Hz, 1H); 6.32 (dd, J=8.7, 7.2 Hz, 1H); 4.57 (t, J=9.4 Hz, 1H); 4.04 (s, 3H); 3.91 (m, 1H); 3.75-3.84 (overlapping signals, 2H); 3.63 (dd, J=9.2, 6.9 Hz, 1H); 3.47-3.50 (overlapping signals, 2H); 3.46 (s, 2H); 3.22 (dd, J=14.4, 6.8 Hz, 1H); 2.79 (dd, J=12.4, 3.6 Hz, 1H); 2.57 (dd, J=12.4, 8.3 Hz, 1H). MS (ES) m/e 497 (M+H)+.

reactant | (R)-3-((S)-3-Amino-2-hydroxy-propyl)-5-(6-methoxy-[1,5]naphthyridin-4-yl)-oxazolidin-2-one | 0.22 mmol, 0.069 g | NC[C@@H](CN1C(O[C@@H](C1)C1=CC=NC2=CC=C(N=C12)OC)=O)O | C15H18N4O4
reactant | 3-oxo-3,4-dihydro-2H-pyrido[3,2,b][1,4]thiazine-6-carbaldehyde | 0.22 mmol, 0.043 g | O=C1NC2=C(SC1)C=CC(=N2)C=O | C8H6N2O2S
reactant | Sodium borohydride | 0.26 mmol, 0.01 g | [BH4-].[Na+]
solvent | CH2Cl2 | 7 mL | C(Cl)Cl | CH2Cl2
solvent | MeOH | 1.8 mL | CO | CH4O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | methanol | 5 mL | CO | CH4O
product | 6-({(S)-2-Hydroxy-3-[(R)-5-(6-methoxy-[1,5]naphthyridin-4-yl)-2-oxo -oxazolidin-3-yl]-propylamino}-methyl)-4H-pyrido[3,2-b][1,4]thiazin-3-one | 0.082 g, 76% | O[C@@H](CNCC=1C=CC=2SCC(NC2N1)=O)CN1C(O[C@@H](C1)C1=CC=NC2=CC=C(N=C12)OC)=O | C23H24N6O5S
